US07947692B2
A solution of the trifluoroacetic acid salt of 3-amino-pyrrolidine-1-carboxylic acid (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide (176 mg, 0.46 mmol) in methanol (6 ml), 4-fluoro-3-(trifluoromethyl) benzaldehyde (90 mg, 0.46 mmol) and sodium triacetoxyborohydride (293 mg, 1.38 mmol) at 25° C. The resulting solution was stirred at 25° C. overnight. At this time, the reaction mixture was treated with triethylamine (200 mL, 1.44 mmol) and then was stirred for an additional 24 h. At this time, the reaction was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, gradient elution 95/5 methylene chloride/methanol) afforded 1-[2-(4-fluoro-3-trifluoromethyl-benzylamino)-ethyl]-3-(7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-urea (37 mg, 18%); ES-HRMS m/e calcd for C17H16F4N6O2S (M+H)+ 445.1065, found 445.1065.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-amino-pyrrolidine-1-carboxylic acid (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide | 0.46 mmol, 176 mg | COC=1C2=C(N=CN1)SC(=N2)NC(=O)N2CC(CC2)N | C11H14N6O2S
reactant | 4-fluoro-3-(trifluoromethyl) benzaldehyde | 0.46 mmol, 90 mg | FC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4F4O
reactant | sodium triacetoxyborohydride | 1.38 mmol, 293 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triethylamine | 1.44 mmol, 200 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 6 ml | CO | CH4O
product | 1-[2-(4-fluoro-3-trifluoromethyl-benzylamino)-ethyl]-3-(7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-urea | 37 mg, 18% | FC1=C(C=C(CNCCNC(=O)NC=2SC=3N=CN=C(C3N2)OC)C=C1)C(F)(F)F | C17H16F4N6O2S
